US07220884B2
A solution of n-heptylamine (10.31 g, 89.4 mmol) in 100 mL CH2Cl2 was cooled in an ice bath. Pyridine (7.5 mL, 92.7 mmol) was added. Acetyl chloride (8.0 mL, 11 mmol) was gradually added over the course of 2 min. The ice bath was removed and the solution was allowed to warm to room temperature. After 1 h, water (100 mL) was added, and the organic layer was separated. The aqueous layer was extracted with 100 mL CH2Cl2. The combined organic extracts were washed with 10% aqueous HCl solution, saturated NaHCO3 solution and then saturated NaCl solution. The solution was dried over MgSO4 and evaporated to give n-heptyl acetamide as a colorless liquid (13.73 g, 98% yield.

reactant | n-heptylamine | 89.4 mmol, 10.31 g | C(CCCCCC)N | C7H17N
reactant | Pyridine | 92.7 mmol, 7.5 mL | N1=CC=CC=C1 | C5H5N
reactant | Acetyl chloride | 11 mmol, 8.0 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | n-heptyl acetamide | 98% yield | C(CCCCCC)CC(=O)N | C9H19NO
